US04647566
Oxalyl chloride (5.2 g) is added to 200 mL of DMF dropwise under stirring and cooling keeping the temperature below -20°. Stirring is continued for 0.5 hour at the same temperature. To the mixture 7.0 g of ethyl 6-benzyloxy-4-hydroxy-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate is added in small portions and stirring is continued for 2 hours at -30° to -20°, then at room temperature overnight. The mixture is evaporated to dryness and the residue is taken up in CH2Cl2, washed with sat. NaHCO3, dried (MgSO4) and evaporated to dryness to an oil which is chromatographed on silica gel to yield ethyl 6-benzyloxy-4-chloro-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate.

reactant | Oxalyl chloride | 5.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl 6-benzyloxy-4-hydroxy-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | 7.0 g | C(C1=CC=CC=C1)OC1(CC=2C(=C(C=NC2CC1)C(=O)OCC)O)C | C20H23NO4
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | ethyl 6-benzyloxy-4-chloro-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | C(C1=CC=CC=C1)OC1(CC=2C(=C(C=NC2CC1)C(=O)OCC)Cl)C | C20H22ClNO3
